US05317016
To a solution of trans-1-t-butoxycarbonyl-4-hydroxy-L-proline (8.5 g) in tetrahydrofuran (110 ml) at -30° C., triethylamine (12.8 ml) and methanesulfonyl chloride (6.27 ml) are added. The mixture is stirred at the same temperature for 30 minutes. To the mixture triethylamine (5.13 ml) and methanol (30 ml) are added. The mixture is stirred for 30 minutes. The reaction mixture is acidified with 1N-hydrochloric acid (37 ml) and extracted with ethyl acetate. The extract is successively washed with water, aqueous sodium hydrogen carbonate, water and saturated brine, dried over sodium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography and recrystallized from toluene-petroleum ether to give (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-carboxylic acid methyl ester (9.16 g). Colorless crystals. Yield: 77%. mp. 86° to 87° C. NMR δ(CDCl3) ppm: 1.42, 1.47, 1.50(3×s, 9H), 2.19 to 2.35(m, 1H), 2.48 to 2.75(m, 1H), 3.06, 3.07, 3.26(3×s, 3H), 3.59 to 4.12(m, 5H), 4.35 to 4.60(m, 1H), 5.18 to 5.32(m, 1H). IR ν (CHCl3) cm-1 : 1748, 1698.

reactant | trans-1-t-butoxycarbonyl-4-hydroxy-L-proline | 8.5 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
reactant | triethylamine | 12.8 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.27 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 5.13 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 37 ml | Cl | ClH
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
product | (2S,4R)-1-t-butoxycarbonyl-4-methanesulfonyloxypyrrolidine-2-carboxylic acid methyl ester | 9.16 g, Yield: 77% | COC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C | C12H21NO7S
